* ============================================================================
* Little Green Scream Machine (PedalPCB) — hot-rodded Ibanez TS-808
* PedalKernel Kits Validation Circuit
* ============================================================================
*
* Topology (mirrors little_green_scream_machine.pedal in pedals/kits/):
*   1. Input buffer — R1 (2.2M) pulldown; C1 (27n) -> R2 (1K) -> Q1 base
*                     (R3 510K to VREF); follower, R4 (10K)
*   2. Clipping     — IC1.1 non-inverting: C2 (1u) + R5 (10K to VREF);
*                     gain leg R8 (2.4K) + C4 (100n) to VREF (fc 663 Hz);
*                     feedback R6 (20K) + DRIVE (500KA) + C3 (51p);
*                     clipper: D3+D2 series (anode at output, +half ~1.2V)
*                     antiparallel D1 (-half ~0.6V) — asymmetric 2+1
*   3. Active tone  — R9 (1K) -> node T (C5 220n shunt, R19 10K to VREF) ->
*                     IC1.2 +in and TONE lug1; lug3 -> node B (-in);
*                     wiper -> C6 (180n) -> R7 (220) -> gnd; feedback R10 (1K)
*   4. Output       — R11 (1K) -> VOLUME (100KB, bottom to VREF); wiper ->
*                     C8 (100n) -> Q2 base (R12 510K to VREF); follower
*                     R13 (10K); R14 (100) -> C9 (10u) -> out, R15 (10K)
*
* Refdes match the PedalPCB build doc (rev 11.03.17):
*   https://docs.pedalpcb.com/project/LGSM.v1.pdf
*
* House conventions: op-amps = ideal VCVS (1e5) — doc's OPA2134; VREF =
* ideal 4.5 V source; power section (D4/C11/C7/R18/LED) omitted.
* SUBSTITUTION (documented): Q1/Q2 2SC1815 -> 2N5088 model here AND in the
* .pedal (followers are beta-insensitive).
*
* Control positions (validation point):
*   Drive  = 1.0 -> 500K full (audio taper exact at the extreme)
*          -> Av = 1 + 520K/2.4K = 218
*   Tone   = 0.5 -> 10K / 10K   (B taper, unambiguous)
*   Volume = 0.5 -> 50K / 50K   (B taper, unambiguous)
*
* Diode model: 1N914 params as legends screamer/sd1 decks.
* ============================================================================

* ---- Supply and VREF ---------------------------------------------------------
VCC vcc 0 DC 9
Vref v_ref 0 DC 4.5

* ---- Input buffer -------------------------------------------------------------
R1 v_in 0 2.2meg
C1 v_in v_c1 27n
R2 v_c1 v_q1b 1k
R3 v_q1b v_ref 510k
Q1 vcc v_q1b v_q1e Q2N5088
R4 v_q1e 0 10k

.MODEL Q2N5088 NPN(IS=18f BF=600 BR=4.0 NF=1.0 NR=1.0 VAF=100 VAR=25 IKF=50m IKR=10m ISE=5f NE=1.5 ISC=0 NC=2.0 RB=10 RE=0.2 RC=0.3 CJE=6p VJE=0.7 MJE=0.33 CJC=4p VJC=0.7 MJC=0.33 TF=300p TR=30n)

* ---- Clipping stage (IC1.1, non-inverting, ideal VCVS) ------------------------
C2 v_q1e v_pos 1u
R5 v_pos v_ref 10k
Eu1 v_u1out 0 v_pos v_neg 100000

* Gain leg to VREF (2.4K + 100n -> 663 Hz corner)
R8 v_neg v_c4 2.4k
C4 v_c4 v_ref 100n

* Feedback: R6 + Drive (500KA at 1.0 = full 500K rheostat) + C3 HF rolloff
R6 v_neg v_r6 20k
Rdrive v_r6 v_u1out 500k
C3 v_neg v_u1out 51p

* Asymmetric clipper: D3+D2 series (anode at output) || D1 reversed
D3 v_u1out v_d32 D1N914
D2 v_d32 v_neg D1N914
D1 v_neg v_u1out D1N914
.MODEL D1N914 D(Is=4.35n N=1.906 Rs=0.6 Cjo=2p)

* ---- Active tone stage (IC1.2) ------------------------------------------------
R9 v_u1out v_t 1k
C5 v_t 0 220n
R19 v_t v_ref 10k
* TONE (B20K at 0.5): lug1 = node T, lug3 = node B, wiper -> C6 -> R7 -> gnd
Rtone_top v_t v_tw 10k
Rtone_bot v_tw v_b 10k
C6 v_tw v_c6r 180n
R7 v_c6r 0 220
R10 v_b v_u2out 1k
Eu2 v_u2out 0 v_t v_b 100000

* ---- Output stage --------------------------------------------------------------
R11 v_u2out v_vol 1k
* VOLUME (100KB at 0.5), bottom lug to VREF
Rvol_top v_vol v_vw 50k
Rvol_bot v_vw v_ref 50k
C8 v_vw v_q2b 100n
R12 v_q2b v_ref 510k
Q2 vcc v_q2b v_q2e Q2N5088
R13 v_q2e 0 10k
R14 v_q2e v_r14 100
C9 v_r14 v_out 10u
R15 v_out 0 10k

* NOTE: no .IC lines on purpose. Under the harness's `.TRAN ... UIC`, .IC on
* the follower base nodes makes ngspice fail at the initial timepoint
* ("trouble with q2n5088-instance"; bisected 2026-07-15 on the uberdrive
* deck — same follower structure here). The deck cold-starts under UIC and
* the kits harness uses a long golden (0.6 s) with a 0.5 s comparison trim
* so the slow states (C8xR12 ~ 51 ms tau, C9x(R14+R15) ~ 101 ms tau) are
* fully settled in the compared window.

* ---- Standalone smoke test (stripped by the validation harness) ---------------
VIN v_in 0 SIN(0 0.1 1k)
.TRAN 5.2083u 100m
.CONTROL
  set filetype=ascii
  run
  meas tran vout_rms RMS v(v_out) from=50m to=100m
  meas tran vout_max MAX v(v_out) from=50m to=100m
  meas tran vout_min MIN v(v_out) from=50m to=100m
  meas tran vu1_max MAX v(v_u1out) from=50m to=100m
  meas tran vu1_min MIN v(v_u1out) from=50m to=100m
  quit
.ENDC
.END
